US03959322
Reflux 6-(3,5-dimethoxyphenyl)hex-1-en-3-one, containing a small amount of 6-(3,5-dimethoxyphenyl)-1-diethylaminohexan-3-one (6 g, produced by slow distillation of the latter substance) with 2-ethylcyclopentane-1,3-dione (3.5 g) in 0.12% anhydrous methanolic potassium hydroxide (10 cc) for 10 hours. Work up the reaction mixture as for the preparation of 2-(6-m-acetoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione to obtain 2-[6-(3,5-dimethoxyphenyl)-3-oxohexyl]-2-ethylcyclopentane-1,3-dione as a viscous gum; infrared absorption peaks at 5.80, 6.25 μ (split peak).

reactant | 6-(3,5-dimethoxyphenyl)hex-1-en-3-one | COC=1C=C(C=C(C1)OC)CCCC(C=C)=O | C14H18O3
reactant | 6-(3,5-dimethoxyphenyl)-1-diethylaminohexan-3-one | COC=1C=C(C=C(C1)OC)CCCC(CCN(CC)CC)=O | C18H29NO3
solvent | potassium hydroxide | 10 cc | [OH-].[K+]
product | 2-ethylcyclopentane-1,3-dione | 3.5 g | C(C)C1C(CCC1=O)=O | C7H10O2
